US08106215B2
A.2.1 Synthesis of (1S,2S,5R)-2-hydroxymethyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester
A mixture of (1S,2S,5R)-3-benzyl-2-hydroxymethyl-3-aza-bicyclo[3.3.0]-octane (synthesized according to WO2003/062265) (350 mg), Pd—C (50% H2O) (300 mg), Boc2O (494 mg, 1.5 eq) in EA (14 mL) was stirred under hydrogen (1 bar) for 16 h. After filtration through celite and removal of the solvents the title compound was obtained as a yellow oil.

reactant | (1S,2S,5R)-3-benzyl-2-hydroxymethyl-3-aza-bicyclo[3.3.0]-octane | 350 mg | C(C1=CC=CC=C1)N1[C@@H]([C@H]2CCC[C@H]2C1)CO | C15H21NO
reactant | Boc2O | 494 mg, 1.5 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | EA | 14 mL | CC(OCC)=O | C4H8O2
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | (1S,2S,5R)-2-hydroxymethyl-3-aza-bicyclo[3.3.0]-octane-3-carboxylic acid tert.-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]([C@H]2CCC[C@H]2C1)CO | C13H23NO3
